US08754053B2
3-(4-Bromo-3-methyl-phenyl)-5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazole (IIIa)
300 mg 1-(4-Bromo-3-methyl-phenyl)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-en-1-one (IVa), 80 mg MeNHOH.HCl and 100 mg triethylamine were refluxed in 2 ml of ethanol for 18 hours. After evaporation of the solvent the residue was purified on silica gel giving 210 mg (65%) of 3-(4-Bromo-3-methyl-phenyl)-5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazole (IIIa) as a colorless resin.

reactant | 1-(4-Bromo-3-methyl-phenyl)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-en-1-one | 300 mg | BrC1=C(C=C(C=C1)C(C=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)=O)C | C17H10BrCl2F3O
reactant | MeNHOH.HCl | 80 mg | CNO.Cl
reactant | triethylamine | 100 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3-(4-Bromo-3-methyl-phenyl)-5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazole | BrC1=C(C=C(C=C1)C=1N(OC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)C | C18H13BrCl2F3NO
